US06051712
In an analogous manner to that described in Example 125 (h), from tert-butyl (3RS,4RS)-4-[2-(3-benzyloxy-propylamino)-pyrimidin-5-yl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate by cleavage of the BOC group by means of anhydrous zinc bromide there was obtained (3-benzyloxy-propyl)-{5-[(3RS,4RS)-3-(naphthalen-2-ylmethoxy)-piperidin-4-yl]-pyrimidin-2-yl}-amine in the form of a brownish gum; MS: 483 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[2-(3-benzyloxy-propylamino)-pyrimidin-5-yl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCNC1=NC=C(C=N1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C35H42N4O4
catalyst | zinc bromide | [Br-].[Zn+2].[Br-]
product | (3-benzyloxy-propyl)-{5-[(3RS,4RS)-3-(naphthalen-2-ylmethoxy)-piperidin-4-yl]-pyrimidin-2-yl}-amine | C(C1=CC=CC=C1)OCCCNC1=NC=C(C=N1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C=C1 | C30H34N4O2
